US04526719
To a solution of p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionate (187 mg, 0.5 mmol) and L-alanine (45 mg, 0.5 mmol) in N,N-dimethylformamide (5 ml) was added N-ethylmorpholine (128 μ1, 1.0 mmol). The mixture was stirred at room temperature for 2 days. After completion of the reaction, the solvent was distilled off and the residue was chromatographed on a Sephadex LH20 column under the same conditions as above. The eluate was evaporated to give 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionyl-L-alanine (23 mg).

reactant | p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionate | 0.5 mmol, 187 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17NO8
reactant | L-alanine | 0.5 mmol, 45 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | N-ethylmorpholine | 1.0 mmol | C(C)N1CCOCC1 | C6H13NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionyl-L-alanine | 23 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)N[C@@H](C)C(=O)O)=O | C15H19NO7
